US05010083
A catalytic amount, (0.019 g) of N,N-dimethylaminopyridine was added to a deoxygenated solution of 5.8 g of 1,2,3,4,5,6-hexahydro-1,3-dimethyl-2,6-methano-1,3-benzodiazocin-8-ol and 5.4 g of acetic anhydride in 270 ml of dichloromethane. After stirring for 15 minutes, the reaction mixture was treated with a saturated sodium bicarbonate solution. The aqueous layer was separated and extracted with dichloromethane. The combined organic layers were washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated to an oil (7.1 g). Column chloromatography of a 3.5 g aliquot of the oil (silica gel; elution with triethylamine-methanol-ethyl acetate) afforded 2.2 g of 1,2,3,4,5,6-hexahydro-1,3-dimethyl-2,6-methano-1,3-benzodiazocin-8-ol acetate as a solid.

reactant | 1,2,3,4,5,6-hexahydro-1,3-dimethyl-2,6-methano-1,3-benzodiazocin-8-ol | 5.8 g | CN1C2N(CCC(C3=C1C=CC(=C3)O)C2)C | C13H18N2O
reactant | acetic anhydride | 5.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 270 ml | ClCCl | CH2Cl2
product | 1,2,3,4,5,6-hexahydro-1,3-dimethyl-2,6-methano-1,3-benzodiazocin-8-ol acetate | 2.2 g | C(C)(=O)OC=1C=CC2=C(C3CCN(C(N2C)C3)C)C1 | C15H20N2O2
